US07678795B2
3-(1-Methyl-1H-pyrrol-2-yl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine
off-white solid. MS (ESI): 241.2 (M+). Prepared from cyclooctane-1,2-dione, [2-(1-Methyl-1H-pyrrol-2-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cyclooctane-1,2-dione | C1(C(CCCCCC1)=O)=O | C8H12O2
reactant | [2-(1-Methyl-1H-pyrrol-2-yl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C=1N(C=CC1)C | C9H14NO4P
reactant | hydrazine monohydrate | O.NN
product | 3-(1-Methyl-1H-pyrrol-2-yl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine | CN1C(=CC=C1)C1=CC2=C(N=N1)CCCCCC2 | C15H19N3
